data/mechanism_extracts/Science/10.1126_science.adg2866.json
{"doi": "10.1126_science.adg2866", "journal": "Science", "is_review": false, "rxn_class_summary": "Enantioselective electrochemical cobalt-catalyzed aryl C-H activation/annulation with alkenes, alkynes, and alcohols coupled to the hydrogen evolution reaction, accessing C-stereogenic, atropoisomeric, and P-stereogenic products.", "mechanism_family": ["electrocatalysis_inner_sphere", "paired_electrolysis"], "electrochemical_role": "Anodic oxidation of Co(II) to higher-valent Co(III)/Co(IV) species enables C-H metalation and oxidation-induced reductive elimination; cathodic reduction of protons generates H2 as the only stoichiometric byproduct (HER replaces chemical oxidant).", "key_intermediates": [{"name": "Cyclometallated Co(III) C-H-activated complex C1 (isolated and characterized)", "smiles": null, "role": "reactive"}, {"name": "Co(II)-CPA1 chiral phosphate-coordinated catalyst resting state", "smiles": null, "role": "resting_state"}, {"name": "Higher-valent Co(IV) (or Co(III)/Co(IV)/Co(II) manifold) intermediate generated by anodic oxidation", "smiles": null, "role": "transient"}, {"name": "Migratory insertion alkyl-Co intermediate (post alkene insertion)", "smiles": null, "role": "transient"}], "electron_flow": "Co(II)/CPA1 coordinates substrate and undergoes inner-sphere C-H cobaltation to give Co(III)-C1; anodic single-electron oxidation produces a higher-valent Co(IV) species that, after alkene/alkyne migratory insertion, undergoes oxidation-induced reductive elimination to form the C-C/C-N/C-O bond and release Co(II); protons are reduced at the cathode to evolve H2.", "rate_determining_step": "Electron transfer (anodic oxidation of the cobaltacycle) is rate-determining; C-H cleavage and migratory insertion are not rate-limiting (kH/kD ≈ 1.0; no order in maleimide on insertion step).", "probe_reagents": [{"name": "[D]5-benzamide (deuterated substrate)", "smiles": null, "purpose": "KIE", "observation": "Parallel-reaction kH/kD ≈ 1.0, indicating C-H cleavage is not rate-determining."}, {"name": "Stoichiometric Co(III)-C1 cyclometallated complex", "smiles": null, "purpose": "intermediate_trap", "observation": "Isolated and fully characterized under galvanostatic conditions; required electricity for efficient productive turnover, supporting oxidation-induced reductive elimination."}, {"name": "Current on/off (galvanostatic vs no electricity)", "smiles": null, "purpose": "redox_probe", "observation": "No product formation without electricity; product formation correlates directly with current, identifying electron transfer as rate-determining."}, {"name": "Variable-concentration kinetics (maleimide)", "smiles": null, "purpose": "other", "observation": "Logarithmic plot of initial rates vs maleimide concentration showed no marked correlation; migratory insertion is fast and not rate-limiting."}, {"name": "Nonlinear effect study (varying ee of CPA1)", "smiles": null, "purpose": "other", "observation": "Linear relationship between CPA1 ee and product ee; rules out self-association of acid or multiligand catalysts."}, {"name": "Ag2CO3 as chemical oxidant (replacing electricity)", "smiles": "[Ag+].[Ag+].[O-]C([O-])=O", "purpose": "redox_probe", "observation": "Very low enantioselectivity obtained, highlighting that electrochemical conditions are essential for high ee."}], "evidence_types_used": ["KIE", "stoichiometric_intermediate", "isolation_of_intermediate", "UV_vis", "kinetic_order", "on/off_light_or_current", "other"], "evidence_strength": "strong", "notes": "High-resolution MS and UV-vis spectroelectrochemistry support a Co(III)/Co(IV)/Co(II) manifold with direct coordination of CPA1 at the cobalt center (inner-sphere enantioinduction) rather than outer-sphere chiral induction. HRMS and S2-S4 figures identify cobalt-CPA1 intermediates. Decagram-scale reaction proceeded with 89% Faradaic efficiency. Stainless steel cathode also viable. The paper does not explicitly distinguish Co(III)/Co(I) vs Co(III)/Co(IV)/Co(II); the latter is favored by the authors."}
